US06147088
Step 4A 7-chloro-3-(3,5-dimethylphenyl)-4-{1-[4-(4-methoxyphenyl)-butyl]-piperidin-2-yl-methoxy}-1H-quinolin-2-one
To a solution of 7-chloro-3-(3,5-dimethylphenyl)-4-(piperidin-2-yl-methoxy)-1H-quinolin-2-one (prepared essentially as described in Example 10, 34 mg in 3.0 mL dry methanol) was added 18 mg of 4-(4-methoxyphenyl)-butyraldehyde, 150 mg powdered 4 Å molecular sieves and one drop of acetic acid. After 30 minutes, 0.13 mL of a 1M solution of sodium cyanoborohydride in tetrahydrofuran was added and the mixture stirred at room temperature for 18 hours. At this time the reaction mixture was filtered through diatomaceous earth and the filtrate concentrated in vacuo. Purification by flash chromatography on silica gel (chloroform:methanolic ammonium hydroxide, 97:3) gave the title compound, 39 mg.

reactant | 7-chloro-3-(3,5-dimethylphenyl)-4-(piperidin-2-yl-methoxy)-1H-quinolin-2-one | ClC1=CC=C2C(=C(C(NC2=C1)=O)C1=CC(=CC(=C1)C)C)OCC1NCCCC1 | C23H25ClN2O2
reactant | 4-(4-methoxyphenyl)-butyraldehyde | 18 mg | COC1=CC=C(C=C1)CCCC=O | C11H14O2
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | methanol | 3.0 mL | CO | CH4O
catalyst | acetic acid | one drop | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-chloro-3-(3,5-dimethylphenyl)-4-{1-[4-(4-methoxyphenyl)-butyl]-piperidin-2-yl-methoxy}-1H-quinolin-2-one | ClC1=CC=C2C(=C(C(NC2=C1)=O)C1=CC(=CC(=C1)C)C)OCC1N(CCCC1)CCCCC1=CC=C(C=C1)OC | C34H39ClN2O3
